US07632832B2
Step A. tert-Butyl 4-[4-(4-methylphenyl)-2-oxo-2,3-dihydro-1H-imidazol-1-yl]piperidine-1-carboxylate
Sodium acetate (41 mg, 0.50 mmol) was added to a solution of t-butyl 4-aminopiperidine-1-carboxylate (100 mg, 0.50 mmol) in acetonitrile (2 mL) at 0° C. After 5 min, 2-bromo-4′-methylacetophenone (106.4 mg, 0.50 mmol) in acetonitrile (1 mL) was added and the mixture was allowed to warm to ambient temperature. After 1.5 h, sodium cyanate (97.4 mg, 1.5 mmol), acetic acid (100 uL) and water (80 uL) were added to the reaction mixture. After 16 h, the mixture was concentrated to give the title compound.

reactant | Sodium acetate | 0.50 mmol, 41 mg | C(C)(=O)[O-].[Na+]
reactant | t-butyl 4-aminopiperidine-1-carboxylate | 0.50 mmol, 100 mg | NC1CCN(CC1)C(=O)OC(C)(C)C | C10H20N2O2
reactant | 2-bromo-4′-methylacetophenone | 0.50 mmol, 106.4 mg | BrCC(=O)C1=CC=C(C=C1)C | C9H9BrO
reactant | sodium cyanate | 1.5 mmol, 97.4 mg | [O-]C#N.[Na+]
solvent | acetonitrile | 2 mL | C(C)#N | C2H3N
solvent | acetonitrile | 1 mL | C(C)#N | C2H3N
solvent | water | 80 uL | O | H2O
solvent | acetic acid | 100 uL | C(C)(=O)O | C2H4O2
product | tert-Butyl 4-[4-(4-methylphenyl)-2-oxo-2,3-dihydro-1H-imidazol-1-yl]piperidine-1-carboxylate | CC1=CC=C(C=C1)C=1NC(N(C1)C1CCN(CC1)C(=O)OC(C)(C)C)=O | C20H27N3O3
